US06348463B1
5-Chloro-2-(2,5-dimethylpyrrol-1-yl)-pyridine
2-Amino-5-chloropyridine (10.0 g, 77 mmol), acetonyl acetone (8.8 g, 77 mmol) and a catalytic amount of p-toluenesulphonic acid in anhydrous toluene (250 ml) was heated to reflux for 5 h under Dean and Stark conditions. The solvent was removed in vacuo, the residue slurried in hexane (250 ml), filtered through celite and the solvent removed in vacuo to give the title compound as a yellow oil (16.0 g): δH (CDCl3) 8.57 (1H, dd, J 2.7, 0.6 Hz), 7.78 (1H, dd, J 8.4, 2.7 Hz), 7.17 (1H, m, J 7.5, 0.5 Hz), 5.91 (2H, s), 2.14 (6H, s).

reactant | 2-Amino-5-chloropyridine | 77 mmol, 10.0 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | acetonyl acetone | 77 mmol, 8.8 g | C(C(=O)C)CC(C)=O | C6H10O2
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-2-(2,5-dimethylpyrrol-1-yl)-pyridine | 16.0 g | ClC=1C=CC(=NC1)N1C(=CC=C1C)C | C11H11ClN2
